US04022897
To 3.52 g of 9-hydroxy-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one in 100 ml of pure ethyl methyl ketone is added 3.31 g of micronized anhydrous potassium carbonate and 2.90 g of allyl bromide. The mixture is stirred and heated under reflux for about 6 hours and then cooled. To the mixture is added 20 ml of water and the whole stirred vigorously, filtered with suction, the water layer separated, the organic layer washed with saturated aqueous sodium chloride, dried, and concentrated. The residue is recrystallized from heptane to give 9-[ (allyl)oxy]-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one, m.p. 113°-115°.

reactant | 9-hydroxy-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one | 3.52 g | OC1=CC=CN2C1=NC(=CC2=O)C | C9H8N2O2
reactant | potassium carbonate | 3.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 2.90 g | C(C=C)Br | C3H5Br
reactant | water | 20 ml | O | H2O
solvent | ethyl methyl ketone | 100 ml | CC(=O)CC | C4H8O
product | 9-[ (allyl)oxy]-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one | C(C=C)OC1=CC=CN2C1=NC(=CC2=O)C | C12H12N2O2
